US08183246B2
6-[(6-Phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester
Heat 2.0 g (8.67 mmol) 4-chloro-6-phenylfuro[2,3-d]pyrimidine and 6.04 ml (34.7 mmol) DIEA in 5 ml DMF to 160° C. Add 3.15 g (17.34 mmol) 6-aminohexanoic acid methyl ester hydrochloride and stir for 4 h at 160° C. After cooling, add the mixture to ice water and extract three times with ethyl acetate. Combine the organic phases and wash with saturated ammonium chloride solution, dry over magnesium sulphate and concentrate under vacuum. Add methanol to the oil residue. Filter off the precipitated solid with suction, wash with methanol again and dry the solid at high vacuum. 1.85 g (57.2% of theor.) of the target compound is obtained.

reactant | 4-chloro-6-phenylfuro[2,3-d]pyrimidine | 8.67 mmol, 2.0 g | ClC=1C2=C(N=CN1)OC(=C2)C2=CC=CC=C2 | C12H7ClN2O
reactant | DIEA | 34.7 mmol, 6.04 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-aminohexanoic acid methyl ester hydrochloride | 17.34 mmol, 3.15 g | Cl.COC(CCCCCN)=O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-[(6-Phenylfuro[2,3-d]pyrimidin-4-yl)amino]hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2)C2=CC=CC=C2)=O | C19H21N3O3
